* TGB_1K_5V0 -- CMOS transmission gate, 5 V domain, ~1 kohm on-resistance
* AutoHV BiCMOS 180 PDK | NMOS50/PMOS50, L = 0.5 um, Wp/Wn = 2.5
*
* Bodies are brought out on pins bn (NMOS) and bp (PMOS) so the caller
* can bias them.  Driving bn/bp to the switch terminal removes the body
* effect and lowers Ron by 1.4x (5 V) to 1.9x (1.8 V); see ../REPORT.md.
* bn must never sit above, and bp never below, either switch terminal.
* The internal inverter always takes its bodies from the rails.
*
* Port order:  a b en bn bp vdd gnd
*   .include "<repo-root>/autohv_bicmos180_case.lib"
*   .include "<this-dir>/TGB_1K_5V0.lib"
*   X1 sig1 sig2 enable 0 vdd vdd 0 TGB_1K_5V0
*
* Typical Ron 1 kohm at TT / 5 V / 27 C, worst case over the input
* level.  PVT envelope and the guaranteed input window: ../REPORT.md.

.subckt TGB_1K_5V0 a b en bn bp vdd gnd
* control inverter: enb = !en  (bodies always on the rails)
XINVP enb en vdd vdd PMOS50 W=2.1u M=1 L=0.5u
XINVN enb en gnd gnd NMOS50 W=0.84u M=1 L=0.5u
* pass pair
XN b en  a bn NMOS50 W=8.4u M=1 L=0.5u
XP b enb a bp PMOS50 W=21u M=1 L=0.5u
.ends TGB_1K_5V0
